US04144338
Concentrated ammonia (10 ml) is added to a solution of phenyl N-(2-diisopropylaminoethyl)-N-(4,6-dimethyl-2-pyrimidinyl)carbamate hydrochloride (7.33 g., 0.018 mole) in 50 ml of tetrahydrofuran and the mixture is allowed to stand for twenty-four hours. It is concentrated, water and chloroform are added to the residue, the chloroform is separated and concentrated. Crystallization of the residue from hexane yields N-(2-diisopropylaminoethyl)-N-(4,6-dimethyl-2-pyrimidinyl)urea melting at 134°-136° C.

reactant | ammonia | 10 ml | N | H3N
reactant | phenyl N-(2-diisopropylaminoethyl)-N-(4,6-dimethyl-2-pyrimidinyl)carbamate hydrochloride | 0.018 mole, 7.33 g | Cl.C(C)(C)N(CCN(C(OC1=CC=CC=C1)=O)C1=NC(=CC(=N1)C)C)C(C)C
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-(2-diisopropylaminoethyl)-N-(4,6-dimethyl-2-pyrimidinyl)urea | C(C)(C)N(CCN(C(=O)N)C1=NC(=CC(=N1)C)C)C(C)C | C15H27N5O
